US08357694B2
(R)-4-(4-(4-(6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenyl)piperazin-1-yl)butan-1-ol
This was synthesized by using (R,Z)-2-((dimethylamino)methylene)-4-(2-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-one and 1-(4-(4-(4-hydroxybutyl)piperazin-1-yl)phenyl)guanidine as described in general procedure 1. LCMS m/e 524 (M+H).

reactant | (R,Z)-2-((dimethylamino)methylene)-4-(2-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-one | CN(C)\C=C\1/C(C2=CC=CC=C2[C@@H](C1)C1=C(C=CC=C1)F)=O | C19H18FNO
reactant | 1-(4-(4-(4-hydroxybutyl)piperazin-1-yl)phenyl)guanidine | OCCCCN1CCN(CC1)C1=CC=C(C=C1)NC(=N)N | C15H25N5O
product | (R)-4-(4-(4-(6-(2-fluorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenyl)piperazin-1-yl)butan-1-ol | FC1=C(C=CC=C1)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)N2CCN(CC2)CCCCO | C32H34FN5O
